US04178449
7-(α,α,α-Trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine
A mixture of 0.83 g. of 3-aminopyrazole and 2.38 g. of 3-hydroxy-3'-(trifluoromethyl)acrylophenone sodium salt in 25 ml. of glacial acetic acid is refluxed for 15 hours and then concentrated to dryness. The residue is treated as described in Example 1, giving the desired product, m.p. 104°-106° C.

reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | 3-hydroxy-3'-(trifluoromethyl)acrylophenone sodium salt | [Na].OC=CC(=O)C1=CC(=CC=C1)C(F)(F)F
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-(α,α,α-Trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine | FC(C1=CC(=CC=C1)C1=CC=NC=2N1N=CC2)(F)F | C13H8F3N3
